US06635658B2
To an ice-cold solution of (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-yl-propyl-amine (1.0 g, 3.3 mmol) and triethylamine (0.5 ml, 3.6 mmol) under an inert atmosphere was added morpholine-4-carbonyl chloride (0.4 mL, 3.5 mmol) dropwise. The ice bath was removed and the reaction stirred at room temperature for 4 h. The methylene chloride was washed 2 times with water (30 mL), dried (MgSO4), filtered, and concentrated to afford {4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidin-1-yl}-morpholin-4-yl-methanone as an oil (1.16 g).

reactant | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-yl-propyl-amine | 3.3 mmol, 1.0 g | COC1=CC=C2CCC(CC2=C1)N(CCC)C1CCNCC1 | C19H30N2O
reactant | triethylamine | 3.6 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine-4-carbonyl chloride | 3.5 mmol, 0.4 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | {4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidin-1-yl}-morpholin-4-yl-methanone | 1.16 g | COC1=CC=C2CCC(CC2=C1)N(C1CCN(CC1)C(=O)N1CCOCC1)CCC | C24H37N3O3
